US06239151B1
A solution of 0.241 g of 2-tert.butyloxycarbonyl-pyrazolidine in 5 ml of toluene as added slowly, at 0° C. under nitrogen, to a solution of 0.725 ml of phosgene in 5 ml of toluene. The mixture was allowed to warm to room temperature over 2 hours and then a solution of 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 5ml toluene/dichloromethane (1:1) was added dropwise. The mixture was stirred for 48 hours at room temperature and evaporated. The residue was dissolved in ethyl acetate and washed with 2N aqueous hydrogen chloride and water and then dried over anhydrous magnesium sulphate and evaporated. The residue was triturated with ether to give 0.267 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-tert.butyloxycarbonyl-1-pyrazolidinyl)carbonyl]valerohydrazide in the form of a pale yellow solid.

reactant | 2-tert.butyloxycarbonyl-pyrazolidine | 0.241 g | C(C)(C)(C)OC(=O)N1NCCC1 | C8H16N2O2
reactant | phosgene | 0.725 ml | C(=O)(Cl)Cl | CCl2O
reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene dichloromethane | 5ml | C1(=CC=CC=C1)C.ClCCl
product | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-tert.butyloxycarbonyl-1-pyrazolidinyl)carbonyl]valerohydrazide | 0.267 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(=O)N1N(CCC1)C(=O)OC(C)(C)C)CC(C)C)CC(C)C | C35H55N5O7
